US08357819B2
2.16 g (93.9 mmol) of sodium are dissolved in 15 ml of n-butanol at 110° C. for 3 hours. 20 ml of dimethylformamide are added at ambient temperature and then the medium is degassed several times. 3.4 g (34.1 mmol) of copper(I) chloride are added at ambient temperature and then the reaction medium is stirred for 10 minutes. 6.2 g (31 mmol) of 3-bromo-4-hydroxybenzaldehyde are added and then the reaction medium is stirred at 120° C. for 2 hours. The reaction mixture is cooled to ambient temperature and then the reaction is halted by the addition of 50 ml of a 2M hydrochloric acid solution. The medium is extracted with 250 ml of ethyl acetate. The solvents are evaporated and then the residue is filtered through a silica gel patch (2 cm): eluent heptane/ethyl acetate 8/2. After evaporation of the solvents, 5.55 g of orange oil are obtained. This oil is crystallized from pentane. 4.8 g of 3-butoxy-4-hydroxybenzaldehyde are obtained in the form of a brown solid after filtration.

reactant | sodium | 93.9 mmol, 2.16 g | [Na] | Na
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 3-bromo-4-hydroxybenzaldehyde | 31 mmol, 6.2 g | BrC=1C=C(C=O)C=CC1O | C7H5BrO2
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | n-butanol | 15 ml | C(CCC)O | C4H10O
catalyst | copper(I) chloride | 34.1 mmol, 3.4 g | [Cu]Cl
product | 3-butoxy-4-hydroxybenzaldehyde | 4.8 g, Yield=80% | C(CCC)OC=1C=C(C=O)C=CC1O | C11H14O3
